US04185115
To 100 ml. of 1 molar borane in tetrahydrofuran cooled in an ice bath is added 19.2 g. of 6-phenylhexanoic acid over a period of 30 minutes. The solution is stirred for 1.5 hours and an additional 100 ml. of 1 molar borane in tetrahydrofuran is added. After stirring overnight at room temperature the reaction mixture is poured into 500 g. of ice. The mixture is extracted with ether, the extracts washed with water, dried over magnesium sulfate and concentrated under reduced pressure to give 6-phenylhexanol as a light yellow liquid.

reactant | borane | 1 molar | B | BH3
reactant | 6-phenylhexanoic acid | C1(=CC=CC=C1)CCCCCC(=O)O | C12H16O2
reactant | borane | 1 molar | B | BH3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-phenylhexanol | C1(=CC=CC=C1)CCCCCCO | C12H18O
